US09382237B2
5-amino-3-((4-(dimethylamino)phenyl)amino)-1H-pyrazole-4-carboxamide (900 mg) was suspended in 10 mL of ethanol and 4-hydroxybenzaldehyde (634 mg, 1.5 eq.) and piperidine (0.25 eq., 89 μL) was added. The reaction was stirred at reflux until the starting material was absent and confirmed by HPLC. After the reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 3-((4-(dimethylamino)phenyl)amino)-5-((4-hydroxybenzylidene)amino)-1H-pyrazole-4-carboxamide t as a yellow to orange powder. The product was washed with ethanol to remove any excess 4-hydroxybenzaldehyde. Product was allowed to dry under vacuum for 1 hr (1.130 g, 90% yield).

reactant | 5-amino-3-((4-(dimethylamino)phenyl)amino)-1H-pyrazole-4-carboxamide | 900 mg | NC1=C(C(=NN1)NC1=CC=C(C=C1)N(C)C)C(=O)N | C12H16N6O
reactant | 4-hydroxybenzaldehyde | 634 mg, 1.5 eq. | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | piperidine | 89 μL, 0.25 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-((4-(dimethylamino)phenyl)amino)-5-((4-hydroxybenzylidene)amino)-1H-pyrazole-4-carboxamide | 90% yield | CN(C1=CC=C(C=C1)NC1=NNC(=C1C(=O)N)N=CC1=CC=C(C=C1)O)C | C19H20N6O2
